* C:\Users\IEUser\Documents\Power-Pack\SPICE\Synchronous_Buck_Therm.asc
XU1 N010 N011 N006 N012 MP_01 N007 N008 TS 0 LTC4444
D1 N006 N007 D
C1 TS N007 .22µ V=25
L1 TS N009 22µ Ipk=36.6 Rser=0.002236 Rpar=2072.4 Cpar=0 flux=0.000022*36.6*tanh(x/36.6)
XU2 TD TG TS irfh7191pbf
XU3 BD BG 0 irfh7191pbf
V1 N005 0 SINE(48 0.1 50k)
C2 N005 0 100µF V=250 Irms=2.1 Rser=0.02
C3 N005 0 100µF V=250 Irms=2.1 Rser=0.020
R1 N005 TD 0.001
C4 N009 0 100µ V=250 Irms=2.1 Rser=0.020
C5 N009 0 100µ V=250 Irms=2.1 Rser=0.02
C6 N009 0 27µ V=63 Irms=2.1 Rser=0.033
R2 N009 0 1
V2 N006 0 12 Rser=12
C7 N006 0 1µ
V3 N011 0 PULSE(0 5 0.2u 25n 25n 1.8u 2u)
V4 N010 0 PULSE(0 5 0 25n 25n 0.2u 2u)
XU4 N003 N004 irfh7191pbft
B1 0 N003 I=((V(TD)-V(TS))*I(R1))+(V(TG)*I(R3))
V5 N004 0 25
R3 N008 TG 0.001
R4 BD TS 0.001
R5 BG N012 0.001
XU5 N001 N002 irfh7191pbft
B2 0 N001 I=(-1*V(BD)*I(R4))+(V(BG)*I(R5))
V6 N002 0 25
.model D D
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.dio
.tran 100m
.lib C:\Users\IEUser\Documents\Power-Pack\SPICE\Models\irfh7191pbf.spi
.lib LTC4444.sub
.backanno
.end
